US08791129B2
N-{2-[2-Amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl}-3-dimethylaminopropionamide (“A56”)
85 mg of TBTU (O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate), 112 μl of 4-methylmorpholine and 100 mg of [2-amino-6-(2-aminomethyl-4,5-difluorophenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone are added to a solution of 43 mg of 3-dimethylaminopropionocarboxylic acid hydrochloride in 1 ml of DMF. The mixture is stirred at 22° C. for 16 h, and the product is isolated directly by column chromatography.

reactant | TBTU | 85 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 4-methylmorpholine | 112 μl | CN1CCOCC1 | C5H11NO
reactant | [2-amino-6-(2-aminomethyl-4,5-difluorophenyl)quinazolin-4-yl]-(1,3-dihydroisoindol-2-yl)methanone | 100 mg | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(C=C(C(=C1)F)F)CN | C24H19F2N5O
reactant | hydrochloride | 43 mg | Cl | ClH
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-{2-[2-Amino-4-(1,3-dihydroisoindole-2-carbonyl)quinazolin-6-yl]-4,5-difluorobenzyl}-3-dimethylaminopropionamide | NC1=NC2=CC=C(C=C2C(=N1)C(=O)N1CC2=CC=CC=C2C1)C1=C(CNC(CCN(C)C)=O)C=C(C(=C1)F)F | C29H28F2N6O2
